US07576135B2
2-[(5-bromopyridin-2-yl)amino]-2-oxoacetic acid methyl ester
In a manner similar to that employed in Referential Example 242, the title compound was prepared from 2-amino-5-bromopyridine and methyl chlorooxoacetate.

reactant | 2-amino-5-bromopyridine | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
product | 2-[(5-bromopyridin-2-yl)amino]-2-oxoacetic acid methyl ester | COC(C(=O)NC1=NC=C(C=C1)Br)=O | C8H7BrN2O3
